US08633237B2
N-(5-(2-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide
N-(5-hydroxy-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide (50 mg, 0.196 mmol) was dissolved in N,N-dimethylformamide (dry) (2 mL), potassium carbonate (54.1 mg, 0.392 mmol) and 1-(bromomethyl)-2-(trifluoromethyl)benzene (94 mg, 0.392 mmol) were added and the mixture was stirred at 60° C. for 3 hr. After this time, the reaction mixture was partitioned between EtOAc and H2O, the organic layer separated and solvent evaporated in vacuo. Purification by flash chromatography (0-100% EtOAc in heptane) afforded the title compound as a colourless oil (34 mg, 42%). MS (ESI): m/z [M−H]− 412.0

reactant | N-(5-hydroxy-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 0.196 mmol, 50 mg | OC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C12H17NO3S
reactant | potassium carbonate | 0.392 mmol, 54.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(bromomethyl)-2-(trifluoromethyl)benzene | 0.392 mmol, 94 mg | BrCC1=C(C=CC=C1)C(F)(F)F | C8H6BrF3
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-(5-(2-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 34 mg, 42% | FC(C1=C(COC=2C=C3CCC(C3=CC2)NS(=O)(=O)C(C)C)C=CC=C1)(F)F | C20H22F3NO3S
